US09447084B2
N-[[4-bromo-3-(2,2,2-trifluoroethyl)phenyl]methylidene]hydroxylamine
Into a 100-mL round-bottom flask, was placed a solution of 4-bromo-3-(2,2,2-trifluoroethyl)benzaldehyde (700 mg, 2.62 mmol, 1.00 equiv) in ethanol:H2O (20:5 mL), NH2OH. hydrogen chloride (235 mg, 3.41 mmol, 1.30 equiv), NaOAc (279 mg, 3.40 mmol, 1.30 equiv). The resulting solution was stirred overnight at room temperature. The reaction was then quenched by the addition of 10 mL of water. The resulting solution was extracted with 3×20 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×20 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 700 mg (crude) of N-[[4-bromo-3-(2,2,2-trifluoroethyl)phenyl]methylidene]hydroxylamine as yellow oil.

reactant | 4-bromo-3-(2,2,2-trifluoroethyl)benzaldehyde | 2.62 mmol, 700 mg, 1.00 equiv | BrC1=C(C=C(C=O)C=C1)CC(F)(F)F | C9H6BrF3O
reactant | NH2OH | NO | H3NO
reactant | hydrogen chloride | 3.41 mmol, 235 mg, 1.30 equiv | Cl | ClH
reactant | NaOAc | 3.40 mmol, 279 mg, 1.30 equiv | CC(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | H2O | 5 mL | O | H2O
product | N-[[4-bromo-3-(2,2,2-trifluoroethyl)phenyl]methylidene]hydroxylamine | BrC1=C(C=C(C=C1)C=NO)CC(F)(F)F | C9H7BrF3NO
